### PR TITLE
[Merged by Bors] - feat: port Data.List.Infix

### PR DESCRIPTION
**Pull request by hargoniX**

### CODE REVIEW

File: Mathlib/Data/List/Infix.lean [hunk 1]
```diff
@@ -0,0 +1,729 @@
...
+  ⟨l₁, l₃, rfl⟩
+#align list.infix_append List.infix_append
+
+@[simp]
+theorem infix_append' (l₁ l₂ l₃ : List α) : l₂ <:+: l₁ ++ (l₂ ++ l₃) := by
+  rw [← List.append_assoc]; apply infix_append
+#align list.infix_append' List.infix_append'
+
+theorem isPrefix.is_infix : l₁ <+: l₂ → l₁ <:+: l₂ := fun ⟨t, h⟩ => ⟨[], t, h⟩
+#align list.is_prefix.is_infix List.isPrefix.is_infix
```
Comment (semorrison) [inline Mathlib/Data/List/Infix.lean:66]:
```suggestion
theorem isPrefix.isInfix : l₁ <+: l₂ → l₁ <:+: l₂ := fun ⟨t, h⟩ => ⟨[], t, h⟩
#align list.is_prefix.is_infix List.isPrefix.isInfix
```
and the next theorem.

File: Mathlib/Data/List/Infix.lean [hunk 2]
```diff
@@ -0,0 +1,729 @@
...
+  | [], l₂ => isTrue ⟨[], l₂, rfl⟩
+  | a :: l₁, [] => isFalse fun ⟨s, t, te⟩ => by simp at te
+  | l₁, b :: l₂ =>
+    @decidable_of_decidable_of_iff _ _
+      (@instDecidableOr _ _ (l₁.decidablePrefix (b :: l₂)) (l₁.decidableInfix l₂))
+      infix_cons_iff.symm
+termination_by decidableInfix l₁ l₂ => (l₁, l₂)
+#align list.decidable_infix List.decidableInfix
+
+/- ./././Mathport/Syntax/Translate/Tactic/Lean3.lean:564:6: unsupported: specialize @hyp -/
```
Comment (semorrison) [inline Mathlib/Data/List/Infix.lean:436]:
```suggestion
```

File: Mathlib/Data/List/Infix.lean [hunk 3]
```diff
@@ -0,0 +1,729 @@
...
+    · rw [cons_prefix_iff] at h
+      rw [← @singleton_append _ hd₁ _, ← @singleton_append _ hd₂ _, filterMap_append,
+        filterMap_append, h.left, prefix_append_right_inj]
+      exact hl h.right
+#align list.is_prefix.filter_map List.isPrefix.filter_map
+
+theorem isPrefix.reduce_option {l₁ l₂ : List (Option α)} (h : l₁ <+: l₂) :
+    l₁.reduceOption <+: l₂.reduceOption :=
+  h.filter_map id
+#align list.is_prefix.reduce_option List.isPrefix.reduce_option
```
Comment (semorrison) [inline Mathlib/Data/List/Infix.lean:494]:
```suggestion
theorem isPrefix.reduceOption {l₁ l₂ : List (Option α)} (h : l₁ <+: l₂) :
    l₁.reduceOption <+: l₂.reduceOption :=
  h.filter_map id
#align list.is_prefix.reduce_option List.isPrefix.reduceOption
```

File: Mathlib/Data/List/Infix.lean [hunk 4]
```diff
@@ -0,0 +1,729 @@
...
+@[simp]
+theorem infix_append' (l₁ l₂ l₃ : List α) : l₂ <:+: l₁ ++ (l₂ ++ l₃) := by
+  rw [← List.append_assoc]; apply infix_append
+#align list.infix_append' List.infix_append'
+
+theorem isPrefix.is_infix : l₁ <+: l₂ → l₁ <:+: l₂ := fun ⟨t, h⟩ => ⟨[], t, h⟩
+#align list.is_prefix.is_infix List.isPrefix.is_infix
+
+theorem isSuffix.is_infix : l₁ <:+ l₂ → l₁ <:+: l₂ := fun ⟨t, h⟩ => ⟨t, [], by rw [h, append_nil]⟩
+#align list.is_suffix.is_infix List.isSuffix.is_infix
```
Comment (semorrison) [inline Mathlib/Data/List/Infix.lean:69]:
```suggestion
theorem isSuffix.isInfix : l₁ <:+ l₂ → l₁ <:+: l₂ := fun ⟨t, h⟩ => ⟨t, [], by rw [h, append_nil]⟩
#align list.is_suffix.is_infix List.isSuffix.isInfix
```
